### PR TITLE
chore: golfing in `BehaviouralTheory`

### PR DESCRIPTION
**Pull request by chenson2018**
I separated this from #129 because it is a bit wider scope. The unfolding required to make `LTS` work with `grind` remains painful, but I found a way to somewhat make it work locally. I'm still not sure if/how there's a way to state a theorem that could be `grind` annotated for the same effect.

### CODE REVIEW

File: Cslib/Languages/CCS/BehaviouralTheory.lean [hunk 1]
```diff
@@ -31,7 +31,9 @@ open CCS CCS.Process CCS.Act
 
 namespace CCS
 
-@[grind]
+attribute [local grind] Tr
```
Comment (chenson2018) [inline Cslib/Languages/CCS/BehaviouralTheory.lean:34]: I made this local because I wasn't sure if it would be problematic elsewhere.

File: Cslib/Languages/CCS/BehaviouralTheory.lean [hunk 2]
```diff
@@ -58,50 +61,37 @@ private inductive ParComm : (Process Name Constant) → (Process Name Constant)
 theorem bisimilarity_par_comm : (par p q) ~[lts (defs := defs)] (par q p) := by
```
Comment (chenson2018) [inline Cslib/Languages/CCS/BehaviouralTheory.lean:59]: I feel like for these proofs there should be a way to cleverly separate data and proof, but I couldn't figure it out. Something like a function that gives exactly the `exist` lines and then a proof that is just a call to `grind`.

Comment (chenson2018) [reply Cslib/Languages/CCS/BehaviouralTheory.lean:59]: Ah, I think I have it! Look at this: https://github.com/leanprover/cslib/pull/130/commits/b20c5771acd982e211a8370b2735ce53934c5640. I'll see if it generalizes to the other cases.

Comment (chenson2018) [reply Cslib/Languages/CCS/BehaviouralTheory.lean:59]: Unfortunately, this seems like a special case that didn't depend on `Tr`. I think I am done.

**Comment by chenson2018** [comment]
(I realized this also closes #95, so I've added pushed that here as well)

File: Cslib/Languages/CCS/BehaviouralTheory.lean [hunk 3]
```diff
@@ -25,83 +25,47 @@ namespace Cslib
...
 
 open CCS CCS.Process CCS.Act
 
 namespace CCS
 
-@[grind]
-private inductive ParNil : (Process Name Constant) → (Process Name Constant) → Prop where
+attribute [local grind] Tr
+
+@[scoped grind]
```
Comment (fmontesi) [inline Cslib/Languages/CCS/BehaviouralTheory.lean]: Shouldn't this be `local` too? It's used only for the proof. In fact, if I could've written as a local def in the proof, I would've done so. Is it possible?

File: Cslib/Languages/CCS/BehaviouralTheory.lean [hunk 4]
```diff
@@ -25,83 +25,47 @@ namespace Cslib
...
+    exists par s2' nil
+    grind
 
-private inductive ParComm : (Process Name Constant) → (Process Name Constant) → Prop where
+@[scoped grind]
+private inductive ParComm : Process Name Constant → Process Name Constant → Prop where
 | parComm : ParComm (par p q) (par q p)
 
+@[scoped grind]
+def defParComm : Process Name Constant → Process Name Constant
```
Comment (fmontesi) [inline Cslib/Languages/CCS/BehaviouralTheory.lean]: This looks like it could just be inlined in the proof, I guess. Otherwise, we should make this private at least I guess?

File: Cslib/Languages/CCS/BehaviouralTheory.lean [hunk 5]
```diff
@@ -110,15 +74,15 @@ theorem bisimilarity_nil_par : (par nil p) ~[lts (defs := defs)] p :=
     (par nil p) ~[lts (defs := defs)] (par p nil) := by grind
     _ ~[lts (defs := defs)] p := by simp
 
-
-private inductive ParAssoc : (Process Name Constant) → (Process Name Constant) → Prop where
+@[scoped grind]
```
Comment (fmontesi) [inline Cslib/Languages/CCS/BehaviouralTheory.lean]: same comment as for the above (make local?).

File: Cslib/Languages/CCS/BehaviouralTheory.lean (hunk 4 above)
Comment (chenson2018) [reply Cslib/Languages/CCS/BehaviouralTheory.lean]: I was able to inline this.

File: Cslib/Languages/CCS/BehaviouralTheory.lean (hunk 3 above)
Comment (chenson2018) [reply Cslib/Languages/CCS/BehaviouralTheory.lean]: I don't  think you can inline an `inductive`? I have made the annotations local for all the private inductives.

**Review by fmontesi — APPROVED** [review]
